US05574178
Triethylsilane (76 ml) was added to 2,4,6-tri-tert-butyl-5-hydroxybenzofuran (24.7 g, 82 mmol) and trifluoroacetic acid (38 ml) was added dropwise to the mixture under ice cooling. The mixture was stirred first at 0° C. for 15 min, then at room temperature for 15 min before it was poured into ice water. The mixture was neutralized with an aqueous solution of 1N sodium hydroxide and subjected to extraction with ethyl acetate. The extracted layer was washed with a saturated aqueous solution of sodium hydrogen carbonate, dried over anhydrous magnesium sulfate and concentrated. The concentrate was purified by silica gel chromatography (chloroform) to afford 2,4,6-tri-tert-butyl-5-hydroxy-2,3-dihydrobenzofuran [19.0 g (yield, 76%)].

reactant | Triethylsilane | 76 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | 2,4,6-tri-tert-butyl-5-hydroxybenzofuran | 82 mmol, 24.7 g | C(C)(C)(C)C=1OC2=C(C1)C(=C(C(=C2)C(C)(C)C)O)C(C)(C)C | C20H30O2
reactant | trifluoroacetic acid | 38 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
product | 2,4,6-tri-tert-butyl-5-hydroxy-2,3-dihydrobenzofuran | 19.0 g, 76% | C(C)(C)(C)C1OC2=C(C1)C(=C(C(=C2)C(C)(C)C)O)C(C)(C)C | C20H32O2
